US06166064
2-[3-[[[(4-Chloro-2,6-diisopropylphenylamino)carbonyl]amino]sulfonyl]phenyl]propan-2-ol
To a stirred solution of 2-(3-aminosulfonylphenyl)-propan-2-ol (26.5 grams) in tetrahyrofuran was added sodium hydride (5.2 grams of a 60% dispersion in mineral oil) in several portions. Once hydrogen evolution had subsided, 4-chloro-2,6-diisopropylphenylisocyanate (30.8 grams) was added in one portion, and the resulting mixture was heated to reflux for twelve hours. The mixture was then cooled to room temperature and concentrated in vacuo. The resulting foam was dissolved in water, made basic with 1N sodium hydroxide and extracted with two portions of 1:1 ether/hexane. The aqueous layer was acidified with 1N hydrochloric acid, and the resulting white solid was filtered, washed with water and dried. This afforded 50 grams of a white solid which was recrystallized from wet ethyl acetate/hexane afforded the title compound, melting point 160.5-162.0° C.

reactant | 2-(3-aminosulfonylphenyl)-propan-2-ol | 26.5 grams | NS(=O)(=O)C=1C=C(C=CC1)C(C)(C)O | C9H13NO3S
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-2,6-diisopropylphenylisocyanate | 30.8 grams | ClC1=CC(=C(C(=C1)C(C)C)N=C=O)C(C)C | C13H16ClNO
solvent | tetrahyrofuran | O1CCCC1 | C4H8O
product | 2-[3-[[[(4-Chloro-2,6-diisopropylphenylamino)carbonyl]amino]sulfonyl]phenyl]propan-2-ol | ClC1=CC(=C(C(=C1)C(C)C)NC(=O)NS(=O)(=O)C=1C=C(C=CC1)C(C)(C)O)C(C)C | C22H29ClN2O4S
